US08563617B2
30.3 7-[(Tert-butoxycarbonyl)amino]-8-(4-chlorobenzyl)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate
Tert-butyl [1-(4-chlorobenzyl)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate (850 mg, 2.191 mmol) and 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (939 mg, 2.63 mmol) were dissolved in dichloromethane (45 mL). The pale yellow solution was cooled to 0° C. and a solution of triethylamine (0.611 mL, 4.38 mmol) in dichloromethane (5 mL) was added dropwise. The reaction mixture was allowed to warm to room temperature and stirring was continued over night. The solvent was evaporated in vacuo and the crude product was purified by flash chromatography (dichloromethane, silica gel). Yield: 1.03 g (1.981 mmol, 90%, colorless solid).

reactant | Tert-butyl [1-(4-chlorobenzyl)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate | 2.191 mmol, 850 mg | ClC1=CC=C(CC2C(CCC3=CC=C(C=C23)O)NC(OC(C)(C)C)=O)C=C1 | C22H26ClNO3
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 2.63 mmol, 939 mg | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
reactant | triethylamine | 4.38 mmol, 0.611 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 7-[(Tert-butoxycarbonyl)amino]-8-(4-chlorobenzyl)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC=2C(C(CCC2C=C1)NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)Cl)(F)F | C23H25ClF3NO5S
